US06020382
B. [3H]AD-5075 and Example 11 Displacement Assay for PPARγ2 and PPARδ, respectively
For each assay, an aliquot of receptor (1:1000-1:3000 dilution) was incubated in TEGM (10 mM Tris, pH 7.2, 1 mM EDTA, 10% glycerol, 7 μl/100 ml β-mercaptoethanol, 10 mM Na molybdate, 1 mM dithiothreitol, 5 μg/ml aprotinin, 2 μg/ml leupeptin, 2 μg/ml benzamide and 0.5 mM PMSF) containing 5-10% COS-1 cell cytoplasmic lysate and 10 nM labeled thiazolidinedione ([3H2 ]AD-5075, 21 Ci/mmole), ± test compound compound, [3H2 ]Example 11, 17 Ci/mmole), ± test compound, respectively. Assays were incubated for ~16 h at 4 ° C. in a final volume of 300 μl. Unbound ligand was removed by addition of 200 μl dextran/gelatin-coated charcoal, on ice, for ~10 minutes. After centrifugation at 3000 rpm for 10 min at 4° C., 200 μl of the supernatant fraction was counted in a liquid scintillation counter. In this assay the KD for AD-5075 and Example 11 is 1 nM, respectively.

reactant | Tris | 10 mM | C(C(CO)(CO)N)O | C4H11NO3
reactant | EDTA | 1 mM, pH 7.2 | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | β-mercaptoethanol | 100 ml | SCCO | C2H6OS
reactant | dithiothreitol | 1 mM | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | PMSF | 0.5 mM | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
reactant | thiazolidinedione | C1C(=O)NC(=O)S1 | C3H3NO2S
solvent | glycerol | OCC(O)CO | C3H8O3
product | [3H]AD-5075 | CC1=C(N=C(O1)C2=CC=CC=C2)C(COC3=CC=C(C=C3)CC4C(=O)NC(=O)S4)O | C22H20N2O5S
